US07064215B2
Synthesis of ({(2R,5S)-4-[2-(6-Fluoro(1H-indazol-3-yl))benzimidazol-6-yl]-5-methylmorpholin-2-yl}methyl)diethylamine
The title compund is synthesized according to the general procedure described in Example 4 with {[(2R,5S)-4-(3,4-diaminophenyl)-5-methylmorpholin-2-yl]methyl}diethylamine and 6-fluoro-1H-indazole-3-carbaldehyde.

reactant | {[(2R,5S)-4-(3,4-diaminophenyl)-5-methylmorpholin-2-yl]methyl}diethylamine | NC=1C=C(C=CC1N)N1C[C@H](OC[C@@H]1C)CN(CC)CC | C16H28N4O
reactant | 6-fluoro-1H-indazole-3-carbaldehyde | FC1=CC=C2C(=NNC2=C1)C=O | C8H5FN2O
product | ({(2R,5S)-4-[2-(6-Fluoro(1H-indazol-3-yl))benzimidazol-6-yl]-5-methylmorpholin-2-yl}methyl)diethylamine | FC1=CC=C2C(=NNC2=C1)C=1NC2=C(N1)C=C(C=C2)N2C[C@H](OC[C@@H]2C)CN(CC)CC | C24H29FN6O
